US07732456B2
(4) Preparation of 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one
A THF solution (0.7 mL) of 1N tetrabutylammonium fluoride was added to a THF solution (2 mL) of 4-benzyloxy-1-{4-[tert-butyl(dimethyl)silyloxy]phenyl}-1H-pyridin-2-one (234 mg, 0.573 mmol) and stirred for 30 minutes at room temperature. Ethyl acetate was added to the reaction liquid, the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the title compound (166 mg, 99%) was obtained.

reactant | THF | 0.7 mL | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | 4-benzyloxy-1-{4-[tert-butyl(dimethyl)silyloxy]phenyl}-1H-pyridin-2-one | 0.573 mmol, 234 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C24H29NO3Si
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxy-1-(4-hydroxyphenyl)-1H-pyridin-2-one | 166 mg, 99% | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC=C(C=C1)O)=O | C18H15NO3
